US05681954
Diethyl (2-(4,5-Dimethoxy-2-(1-pyrrolyl)phenyl)ethyl)malonate
In 15 ml of ethyl ether was dissolved 3.0 g of 4,5-dimethoxy-2-(1-pyrrolyl)benzenemethanol, and 15 ml of concentrated hydrochloric acid was added thereto, followed by stirring at room temperature for 1 hour. To the reaction mixture was added 50 ml of water, and the mixture was neutralized with a saturated sodium carbonate aqueous solution and extracted with chloroform. The extract was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure to yield a brown oily substance. Separately, 460 mg of metallic sodium was dissolved in 25 ml of ethanol, and 6.18 g of ethyl malonate was added thereto to prepare a solution. To this solution was added a tetrahydrofuran solution (25 ml) of the above-prepared brown oily substance. After stirring at room temperature for 3 hours, the solvent was removed under reduced pressure. Water was added to the residue, and the mixture was made acidic with concentrated hydrochloric acid and then extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. Purification of the residue by silica gel column chromatography (chloroform) gave 3.10 g of the title compound as a brown oily substance.

reactant | 4,5-dimethoxy-2-(1-pyrrolyl)benzenemethanol | 3.0 g | COC1=CC(=C(C=C1OC)CO)N1C=CC=C1 | C13H15NO3
reactant | hydrochloric acid | 15 ml | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium | 460 mg | [Na] | Na
reactant | ethyl malonate | 6.18 g | C(CC(=O)[O-])(=O)OCC
reactant | ethyl ether | 15 ml | C(C)OCC | C4H10O
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | Diethyl (2-(4,5-Dimethoxy-2-(1-pyrrolyl)phenyl)ethyl)malonate | 3.10 g | COC1=CC(=C(C=C1OC)CCC(C(=O)OCC)C(=O)OCC)N1C=CC=C1 | C21H27NO6
